US07608713B2
Preparation of 3-(dicyclohexylphosphino)cyclohexan-1-one
A 250 ml round-bottomed flask fitted with a condenser, nitrogen purge, and addition funnel was charged with a solution of 89.7 g (0.45 mol) dicyclohexylphosphine and heated to 60° C. with stirring. To the flask was added 50.8 g (0.53 mol) 2-cyclohexen-1-one over a period of 0.5 hour. When addition was complete, the temperature of the contents of the flask was slowly raised to 90° C. and maintained at that temperature for 6 hours, then cooled. Unreacted starting materials were removed by evaporation under reduced pressure at 150° C.

reactant | dicyclohexylphosphine | 0.45 mol, 89.7 g | C1(CCCCC1)PC1CCCCC1 | C12H23P
reactant | 2-cyclohexen-1-one | 0.53 mol, 50.8 g | C1(C=CCCC1)=O | C6H8O
product | 3-(dicyclohexylphosphino)cyclohexan-1-one | C1(CCCCC1)P(C1CC(CCC1)=O)C1CCCCC1 | C18H31OP
